US05948907
1-(Methanesulfonylpropyl)-indole-3-acetamide
Methanesulfonyl chloride (0.67 mL, 14.5 mmol) was added dropwise to a 0°-5° C. solution of 1-(1-hydroxypropyl)-indole-3-acetamide (1.68 g, 7.23 mmol) and triethylamine (1.41 mL, 10.1 mmol) in CH2Cl2 (20 mL) under N2. The reaction was stirred 30 minutes in the ice bath and then the reaction was worked up extractively using CH2Cl2 (200 mL), water (100 mL), aqueous saturated NH4Cl (100 mL) and brine (50 ml), and the organic layer dried (MgSO4) and the solvent removed in vacuo to give a solid that was triturated in THF (15 mL) and filtered to give 1.58 g (71%) of the above titled compound after drying. NMR. MS (FD) m/z=310 (M+, 100%). Analytical calculated for C14H18N2O3S C, 54.18; H, 5.85; N, 9.03. Found C, 54.64; H, 5.98; N, 8.97.

reactant | Methanesulfonyl chloride | 14.5 mmol, 0.67 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(1-hydroxypropyl)-indole-3-acetamide | 7.23 mmol, 1.68 g | OC(CC)N1C=C(C2=CC=CC=C12)CC(=O)N | C13H16N2O2
reactant | triethylamine | 10.1 mmol, 1.41 mL | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 1-(Methanesulfonylpropyl)-indole-3-acetamide | 1.58 g, 71% | CS(=O)(=O)CCCN1C=C(C2=CC=CC=C12)CC(=O)N | C14H18N2O3S
